US03991106
Step B: Preparation of 1-(2-Tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-trans-2-pentene
Lithium aluminum hydride (7.6 g., 0.2 mole) is dissolved in ether (225 ml.) and 1-(2-tetrahydropyranyloxy)- 4-hydroxy-5-(4-fluorophenoxy)-2-pentyne (35.2 g., 0.12 mole) is added dropwise with stirring during 1.5 hour. The resulting mixture is stirred at 25° for 21 hours and then heated at reflux for 4 hours. The mixture is cooled and treated dropwise with ethyl acetate to consume excess lithium aluminum hydride. It is then poured into 600 ml. of ice-cold 20% aqueous potassium hydroxide solution. The oily product is taken up in ether, washed with water and brine, and dried over magnesium sulfate. Removal of solvent under vacuum leaves the title compound as a yellow residual oil.

reactant | Lithium aluminum hydride | 0.2 mole, 7.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(2-tetrahydropyranyloxy)- 4-hydroxy-5-(4-fluorophenoxy)-2-pentyne | 0.12 mole, 35.2 g | O1C(CCCC1)OCC#CC(COC1=CC=C(C=C1)F)O | C16H19FO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 225 ml | CCOCC | C4H10O
product | 1-(2-Tetrahydropyranyloxy)-4 -hydroxy-5-(4-fluorophenoxy)-trans-2-pentene | O1C(CCCC1)OC\C=C\C(COC1=CC=C(C=C1)F)O | C16H21FO4
